P3 isolated XY/U cell; simplified internal transistor
.options reltol=1e-6 abstol=1e-12 vntol=1e-8 method=gear
.temp 27
Vrail supply 0 15
Vcmd cmd 0 PWL(0 1.024 20u 1.024 20.1u 4.096 50u 4.096 50.1u 3.25)
Enaive base 0 cmd 0 1
Qnaive supply base actual QUAPP
Rnaive actual 0 28000
Cnaive actual 0 2e-11
* X=1 V, Y=4 V. Numerator sources ideal; 0.4 V floor startup guard only.
Bquot target 0 V=4/max(v(actual),0.4)
Rdyn target output 100
Cdyn output 0 1n
.subckt OA plus minus output PARAMS: vo=0
Bpole 0 internal I=1n*min(20meg,max(-20meg,(1meg*(v(plus)-v(minus)+vo)-v(internal))/0.0159154943092))
Brail internal 0 I=10*(max(0,v(internal)-13)+min(0,v(internal)+13))
Cpole internal 0 1n
Rbleed internal 0 1e12
Bdrive 0 output I=min(5m,max(-5m,(v(internal)-v(output))/10))
Rout output 0 1e12
Ibplus plus 0 20p
Ibminus minus 0 20p
.ends OA

* Simplified internal transistor; parameters are assumptions, not AD734 process data.
.model QUAPP NPN(Is=1e-15 Bf=199 Vaf=100 Cje=2p Cjc=1p Tf=0.3n)
.subckt DEN cmd measured supply PARAMS: vos=25u
Xamp cmd measured base OA PARAMS: vo={vos}
Qden supply base measured QUAPP
Rden measured 0 28000
Rcomp base measured 2meg
Cpar measured 0 2e-11
.ends DEN

.control
set wr_singlescale
set wr_vecnames
set numdgt=14
tran 10n 80u 0 10n uic
wrdata waveform.txt v(cmd) v(actual) v(output)
quit
.endc
.end
