Pandrosion P2 Halley m=2 profile=untrimmed_stress C=1e-08 acquisition=20.0us
* Authored functional macromodels; not AD734/vendor models; no supply power accounting.
.options reltol=2e-6 abstol=1e-11 vntol=1e-7 method=gear
Vref ref 0 4.096
Rhalf1 ref half_mid 10k
Rhalf2 half_mid 0 10k
Xhalf half_mid ref_half ref_half OA PARAMS: vo=0
Rdouble1 ref_double double_fb 10k
Rdouble2 double_fb 0 10k
Xdouble ref double_fb ref_double OA PARAMS: vo=0
Vm m 0 8.192
Va ca 0 PULSE(0 3 8e-05 1e-08 1e-08 2e-05 0.0001)
Vb cb 0 PULSE(0 3 0.000105 1e-08 1e-08 2e-05 0.0001)
Vr reset 0 PULSE(3 0 5e-05 1e-08 1e-08 1 2)
.model sw SW(Ron=120 Roff=1e12 Vt=1.5 Vh=0.1)
Cc candidate 0 1e-08
Cs state 0 1e-08
Rc candidate 0 1e12
Rs state 0 1e12
Ileakc candidate 0 5e-09
Ileaks state 0 5e-09
Risoa sample_drive track_a 100
Sa track_a candidate ca 0 sw
Risob memory_drive track_b 100
Sb track_b state cb 0 sw
Risor reset_drive reset_iso 100
Sr1 reset_iso candidate reset 0 sw
Sr2 reset_iso state reset 0 sw
Iinj_candidate 0 candidate PULSE(0 9.61538461538e-05 0.000100015 2n 2n 5e-08 0.0001)
Iinj_state 0 state PULSE(0 9.61538461538e-05 0.000125015 2n 2n 5e-08 0.0001)
Bint_reset_drive 0 z_reset_drive I=1n*min(5000000.0,max(-5000000.0,(min(10.5,max(-10.5,((1-1e-5)*v(ref)+(0.001))))-v(z_reset_drive))/8e-08))
Cint_reset_drive z_reset_drive 0 1n
Rint_reset_drive z_reset_drive 0 1e12
Bout_reset_drive 0 reset_drive I=min(0.005,max(-0.005,(v(z_reset_drive)-v(reset_drive))/0.5))
Rout_reset_drive reset_drive 0 1e12
Ib_reset_drive ref 0 100p
Bint_sample_drive 0 z_sample_drive I=1n*min(5000000.0,max(-5000000.0,(min(10.5,max(-10.5,((1-1e-5)*v(next)+(-0.001))))-v(z_sample_drive))/8e-08))
Cint_sample_drive z_sample_drive 0 1n
Rint_sample_drive z_sample_drive 0 1e12
Bout_sample_drive 0 sample_drive I=min(0.005,max(-0.005,(v(z_sample_drive)-v(sample_drive))/0.5))
Rout_sample_drive sample_drive 0 1e12
Ib_sample_drive next 0 100p
Bint_memory_drive 0 z_memory_drive I=1n*min(5000000.0,max(-5000000.0,(min(10.5,max(-10.5,((1-1e-5)*v(candidate)+(0.001))))-v(z_memory_drive))/8e-08))
Cint_memory_drive z_memory_drive 0 1n
Rint_memory_drive z_memory_drive 0 1e12
Bout_memory_drive 0 memory_drive I=min(0.005,max(-0.005,(v(z_memory_drive)-v(memory_drive))/0.5))
Rout_memory_drive memory_drive 0 1e12
Ib_memory_drive candidate 0 100p
Egainstate gs_target 0 state 0 1.6666666666666667
Bint_gainstate 0 z_gainstate I=1n*min(5000000.0,max(-5000000.0,(min(10.5,max(-10.5,((1-1e-5)*v(gs_target)+(-0.001))))-v(z_gainstate))/8e-08))
Cint_gainstate z_gainstate 0 1n
Rint_gainstate z_gainstate 0 1e12
Bout_gainstate 0 gainstate I=min(0.005,max(-0.005,(v(z_gainstate)-v(gainstate))/0.5))
Rout_gainstate gainstate 0 1e12
Ib_gainstate gs_target 0 100p
Rtop_att_state gainstate att_state 32k
Rbot_att_state att_state 0 18k
Ib_gaininput state 0 100p
Rtop_att_q2 q2 att_q2 20k
Rbot_att_q2 att_q2 0 30k
Rtop_att_num num att_num 20k
Rbot_att_num att_num 0 30k
Bint_q2 0 z_q2 I=1n*min(10000000.0,max(-10000000.0,(min(10.5,max(-10.5,((1+(0.001))*(min(1.25*max(v(u_q2),0.4),max(-1.25*max(v(u_q2),0.4),v(att_state))))*min(10,max(-10,v(gainstate)))/max(v(u_q2),0.4)+(0.005))))-v(z_q2))/1e-07))
Cint_q2 z_q2 0 1n
Rint_q2 z_q2 0 1e12
Bout_q2 0 q2 I=min(0.005,max(-0.005,(v(z_q2)-v(q2))/5.0))
Rout_q2 q2 0 1e12
Bint_q3 0 z_q3 I=1n*min(10000000.0,max(-10000000.0,(min(10.5,max(-10.5,((1+(-0.001))*(min(1.25*max(v(u_q3),0.4),max(-1.25*max(v(u_q3),0.4),v(att_q2))))*min(10,max(-10,v(gainstate)))/max(v(u_q3),0.4)+(-0.005))))-v(z_q3))/1e-07))
Cint_q3 z_q3 0 1n
Rint_q3 z_q3 0 1e12
Bout_q3 0 q3 I=min(0.005,max(-0.005,(v(z_q3)-v(q3))/5.0))
Rout_q3 q3 0 1e12
Rweight1 num_sum q3 20020
Rweight2 num_sum m 9990
Rweight3 num_sum 0 20020
Bint_num 0 z_num I=1n*min(5000000.0,max(-5000000.0,(min(10.5,max(-10.5,((1-1e-5)*v(num_sum)+(0.001))))-v(z_num))/8e-08))
Cint_num z_num 0 1n
Rint_num z_num 0 1e12
Bout_num 0 num I=min(0.005,max(-0.005,(v(z_num)-v(num))/0.5))
Rout_num num 0 1e12
Ib_num num_sum 0 100p
Rweight4 den_sum q3 9990
Rweight5 den_sum m 20020
Rweight6 den_sum 0 19980
Bint_den 0 z_den I=1n*min(5000000.0,max(-5000000.0,(min(10.5,max(-10.5,((1-1e-5)*v(den_sum)+(-0.001))))-v(z_den))/8e-08))
Cint_den z_den 0 1n
Rint_den z_den 0 1e12
Bout_den 0 den I=min(0.005,max(-0.005,(v(z_den)-v(den))/0.5))
Rout_den den 0 1e12
Ib_den den_sum 0 100p
Bint_next 0 z_next I=1n*min(10000000.0,max(-10000000.0,(min(10.5,max(-10.5,((1+(0.001))*(min(1.25*max(v(u_next),0.4),max(-1.25*max(v(u_next),0.4),v(att_num))))*min(10,max(-10,v(gainstate)))/max(v(u_next),0.4)+(0.005))))-v(z_next))/1e-07))
Cint_next z_next 0 1n
Rint_next z_next 0 1e12
Bout_next 0 next I=min(0.005,max(-0.005,(v(z_next)-v(next))/5.0))
Rout_next next 0 1e12
Bint_out 0 z_out I=1n*min(5000000.0,max(-5000000.0,(min(10.5,max(-10.5,((1-1e-5)*v(state)+(0.001))))-v(z_out))/8e-08))
Cint_out z_out 0 1n
Rint_out z_out 0 1e12
Bout_out 0 out I=min(0.005,max(-0.005,(v(z_out)-v(out))/0.5))
Rout_out out 0 1e12
Ib_out state 0 100p
Egeo outgeo 0 out 0 1
Rload_out out 0 5k
Cload_out out 0 20p
Rload_outgeo outgeo 0 5k
Cload_outgeo outgeo 0 20p
Bclipratio clipratio 0 V=max(max(max(max(max(abs(v(att_state))/(1.25*max(v(u_q2),0.4)),abs(v(gainstate))/10),abs(v(att_q2))/(1.25*max(v(u_q3),0.4))),abs(v(gainstate))/10),abs(v(att_num))/(1.25*max(v(u_next),0.4))),abs(v(gainstate))/10)

* Two inverters implement a positive affine correction using real resistor KCL.
* Vtrim represents a bench trim source, not an implemented DAC/potentiometer.
Vtrim trim 0 -1.42364565860303
Rcalin out sum1 10k
Rcalfb neg sum1 9997.58927851648
Rcaloffset trim sum1 1meg
Xcal1 0 sum1 neg OA PARAMS: vo=2.5e-05
Rcalin2 neg sum2 10k
Rcalfb2 corrected sum2 10k
Xcal2 0 sum2 corrected OA PARAMS: vo=-2.5e-05
Rcal_load corrected 0 10k
Ccal_load corrected 0 20p
* Authored single-pole op amp: A0=1e6, GBW=10 MHz, SR=20 V/us,
* internal clamp +/-13 V, output limit 5 mA, Rout=10 ohms, bias=20 pA.
* This is not the OPA192 vendor model and does not prove load stability.
.subckt OA plus minus output PARAMS: vo=0
Bpole 0 internal I=1n*min(20meg,max(-20meg,(1meg*(v(plus)-v(minus)+vo)-v(internal))/0.0159154943092))
Brail internal 0 I=10*(max(0,v(internal)-13)+min(0,v(internal)+13))
Cpole internal 0 1n
Rbleed internal 0 1e12
Bdrive 0 output I=min(5m,max(-5m,(v(internal)-v(output))/10))
Rout output 0 1e12
Ibplus plus 0 20p
Ibminus minus 0 20p
.ends OA

Vservo_supply servo_supply 0 15
Xden_q2 ref u_q2 servo_supply DEN
Xden_q3 ref u_q3 servo_supply DEN
Xden_next den u_next servo_supply DEN
Bservoerr servoerr 0 V=max(max(abs(v(u_q2)-v(ref)),abs(v(u_q3)-v(ref))),abs(v(u_next)-v(den)))
* Simplified internal transistor; parameters are assumptions, not AD734 process data.
.model QUAPP NPN(Is=1e-15 Bf=199 Vaf=100 Cje=2p Cjc=1p Tf=0.3n)
.subckt DEN cmd measured supply PARAMS: vos=25u
Xamp cmd measured base OA PARAMS: vo={vos}
Qden supply base measured QUAPP
Rden measured 0 28000
Rcomp base measured 2meg
Cpar measured 0 2e-11
.ends DEN

Rport_q2_x att_state 0 50000
Cport_q2_x att_state 0 2e-12
Iport_q2_x att_state 0 5e-08
Rport_q2_y gainstate 0 50000
Cport_q2_y gainstate 0 2e-12
Iport_q2_y gainstate 0 5e-08
Rport_q2_z q2 0 50000
Cport_q2_z q2 0 2e-12
Iport_q2_z q2 0 5e-08
Rport_q3_x att_q2 0 50000
Cport_q3_x att_q2 0 2e-12
Iport_q3_x att_q2 0 5e-08
Rport_q3_y gainstate 0 50000
Cport_q3_y gainstate 0 2e-12
Iport_q3_y gainstate 0 5e-08
Rport_q3_z q3 0 50000
Cport_q3_z q3 0 2e-12
Iport_q3_z q3 0 5e-08
Rport_next_x att_num 0 50000
Cport_next_x att_num 0 2e-12
Iport_next_x att_num 0 5e-08
Rport_next_y gainstate 0 50000
Cport_next_y gainstate 0 2e-12
Iport_next_y gainstate 0 5e-08
Rport_next_z next 0 50000
Cport_next_z next 0 2e-12
Iport_next_z next 0 5e-08
.control
set noaskquit
set wr_singlescale
set wr_vecnames
set numdgt=14
tran 100n 0.00065 0 100n uic
wrdata waveform.txt v(state) v(candidate) v(out) v(outgeo) v(next) v(num) v(den) v(ca) v(cb) v(clipratio) v(corrected) v(neg) v(servoerr)
quit
.endc
.end
